US09126998B2
8-[(2,6-Difluorobenzyl)oxy]-2-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)imidazo[1,2-a]-pyridine-3-carboxamide
18.8 mg (0.12 mmol) of 2,2,6,6-tetramethylpiperidine-4-amine were initially charged, and 32 mg (0.10 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid in 0.4 ml of DMF and 42 mg (0.13 mmol) of (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate (TBTU) in 0.2 ml of DMF were added. 20 mg (0.20 mmol) of 4-methylmorpholine were then added, and the reaction was stirred at RT overnight. The mixture was then filtered off and the filtrate was purified by preparative LC-MS (Method 12). The product-containing fractions were concentrated under reduced pressure. This gave 27 mg (59% of theory) of the target product.

reactant | 2,2,6,6-tetramethylpiperidine-4-amine | 0.12 mmol, 18.8 mg | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.10 mmol, 32 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate | 0.13 mmol, 42 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)O[C+](N(C)C)N(C)C
reactant | 4-methylmorpholine | 0.20 mmol, 20 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | 8-[(2,6-Difluorobenzyl)oxy]-2-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)imidazo[1,2-a]-pyridine-3-carboxamide | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3CC(NC(C3)(C)C)(C)C)C(=CC=C1)F | C25H30F2N4O2
